US04118561
7-[(4-Acetylphenyl)methyl]-7H-pyrrolo[3,2-f]-quinazoline-1,3-diamine
In a manner similar to that of Example 2, 7.97 g. 7-H-pyrrolo[3,2-f]quinazoline-1,3-diamine in 350 ml. dry dimethylformamide is converted to the Nind-sodium salt with 2.31 g. ca. 50% sodium hydride-mineral oil dispersion and the salt is treated with 4-acetylbenzyl bromide (10.23 g.) in 10 ml. dry dimethylformamide. After stirring for 3 hours, the reaction mixture is treated with 5 ml. gl. acetic acid and freed of solvent. The residue is stirred with excess aqueous potassium carbonate solution, washed with water, with ether, and dried. Two recrystallizations of the crude product from methanol and thorough drying provide 9.82 g. of title compound, m.p. 224°-225°.

reactant | 7-H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C=1(N=C(N=C2C=CC3=C(C12)C=CN3)N)N | C10H9N5
reactant | sodium hydride | [H-].[Na+]
reactant | 4-acetylbenzyl bromide | 10.23 g | C(C)(=O)C1=CC=C(CBr)C=C1 | C9H9BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[(4-Acetylphenyl)methyl]-7H-pyrrolo[3,2-f]-quinazoline-1,3-diamine | C(C)(=O)C1=CC=C(C=C1)CN1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C19H17N5O
